US04220658
26.4 g (0.1 mole) of 1-(2,6-dichlorophenyl)-3-carbamylthiourea is combined with 200 ml of methanol and 14.1 g (0.1 mole) of iodomethane and refluxed for 4 hours. This is then evaporated to dryness and 100 ml of hexane is added. The mixture is filtered to obtain 1-(2,6-dichlorophenyl)-3-carbamyl-3-methylthiouronium iodide.

reactant | 1-(2,6-dichlorophenyl)-3-carbamylthiourea | 0.1 mole, 26.4 g | ClC1=C(C(=CC=C1)Cl)NC(=S)NC(N)=O | C8H7Cl2N3OS
reactant | iodomethane | 0.1 mole, 14.1 g | IC | CH3I
solvent | methanol | 200 ml | CO | CH4O
product | 1-(2,6-dichlorophenyl)-3-carbamyl-3-methylthiouronium iodide | [I-].ClC1=C(C(=CC=C1)Cl)[NH+]=C(S)N(C)C(N)=O | InChI=1S/C9H9Cl2N3OS.HI/c1-14(8(12)15)9(16)13-7-5(10)3-2-4-6(7)11;/h2-4H,1H3,(H2,12,15)(H,13,16);1H
